US08461167B2
Potential Synthesis of 3-(cinnolin-4-ylethynyl)-N-[4-{[4-(2-hydroxyethyl)piperazin-1-yl]methyl}-3-(trifluoromethyl)phenyl]-4-methylbenzamide
The title compound can be synthesized from 4-ethynylcinnoline and N-(4-((4-(2-hydroxyethyl)piperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide in a manner similar to that described for Example 1.

reactant | 4-ethynylcinnoline | C(#C)C1=CN=NC2=CC=CC=C12 | C10H6N2
reactant | N-(4-((4-(2-hydroxyethyl)piperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | OCCN1CCN(CC1)CC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)C)I)=O)C(F)(F)F | C22H25F3IN3O2
product | 3-(cinnolin-4-ylethynyl)-N-[4-{[4-(2-hydroxyethyl)piperazin-1-yl]methyl}-3-(trifluoromethyl)phenyl]-4-methylbenzamide | N1=NC=C(C2=CC=CC=C12)C#CC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)CCO)C(F)(F)F)C=CC1C | C32H30F3N5O2
